US07241773B2
3-(4-nitrophenoxy)quinuclidine
3-Hydroxy quinuclidine (Aldrich, 2.54 g, 10 mmol) was treated with 1-iodo-4-nitro-benzene (5 g, 20 mmol) according to the procedure of Example 14A. The title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:1, Rf. 0.20) (1.02 g, yield, 21%). 1H NMR (MeOH-d4, 300 MHz) δ 1.40–1.56 (m, 1H), 1.65–1.90 (m, 2H), 1.90–2.08 (m, 1H), 2.15–2.25 (m, 1H), 2.75–3.00 (m, 5H), 3.34–3.40 (m, 1H), 4.69 (m, 1H), 7.07 (d, J=9.5 Hz, 2H), 8.21 (d, J=9.2, Hz, 2H) ppm. MS (DCl/NH3) m/z 249 (M+H)+.

reactant | 3-Hydroxy quinuclidine | 10 mmol, 2.54 g | OC1CN2CCC1CC2 | C7H13NO
reactant | 1-iodo-4-nitro-benzene | 20 mmol, 5 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
product | 3-(4-nitrophenoxy)quinuclidine | [N+](=O)([O-])C1=CC=C(OC2CN3CCC2CC3)C=C1 | C13H16N2O3
